US06086771
A 19:6:75 mole ratio poly(vinyl acetate/acrylic acid/methyl acrylate) was synthesized in the following manner. In a liter polymerization flask fitted with baffles, 295.0 g of deionized water, 10.34 of nonylphenol ethoxylate sulfate ammonium salt (58% solution), available from Rhone-Poulenc of Cranbury, N.J., 9.02 g of sodium dodecyl benzene sulfonate (23% solution) available from Rhone-Poulenc of Cranbury, N.J., 2.0 of EO-PO block copolymer available from BASF, Mt. Olive, N.J. were taken and a solution was effected by mixing. To the resultant clear solution, 0.19 g of SAG 2001, an antifoam available from Witco of Greenwich, Conn. and vinyl acetate (99%) 40.8 g was added, nitrogen was sparged through the solution for 15 minutes and the solution was cooled down to 10° C.

reactant | sodium dodecyl benzene sulfonate | 9.02 g | C1(=CC=CC=C1)S(=O)(=O)OCCCCCCCCCCCC.[Na]
reactant | vinyl acetate | 40.8 g | C(C)(=O)OC=C | C4H6O2
solvent | water | 295.0 g | O | H2O
product | vinyl acetate acrylic acid methyl acrylate | C(C)(=O)OC=C.C(C=C)(=O)O.C(C=C)(=O)OC | InChI=1S/2C4H6O2.C3H4O2/c1-3-4(5)6-2;1-3-6-4(2)5;1-2-3(4)5/h2*3H,1H2,2H3;2H,1H2,(H,4,5)
